US06927221B2
Ethyl 4-(7-(butyl)-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)butanoate
Phosphorus oxychloride (11.3 g) and N,N-dimethylaniline (3 droplets) were added to ethyl 4-(3-mesityl-2,5-dimethyl-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidin-6-yl)butanoate (700 mg, 1.77 mmol), followed by heating under reflux for 1.5 hours. After the reaction, it was treated with ice-water, neutralized with potassium carbonate, extracted with ethyl acetate, dried over anhydrous magnesium sulfate and evaporated. The resulting reaction residue was dissolved in acetonitrile (5 ml) and n-butylamine (2 mL) was added, followed by heating under reflux for six hours. After the reaction, it was treated with water, and then neutralized with potassium carbonate, extracted with ethyl acetate, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (10-25% ethyl acetate/hexane), to give the title compound (2.5 g) as a yellow oil.

reactant | Phosphorus oxychloride | 11.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | ethyl 4-(3-mesityl-2,5-dimethyl-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidin-6-yl)butanoate | 1.77 mmol, 700 mg | C1(=C(C(=CC(=C1)C)C)C=1C(=NN2C1NC(=C(C2=O)CCCC(=O)OCC)C)C)C | C23H29N3O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | n-butylamine | 2 mL | C(CCC)N | C4H11N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | Ethyl 4-(7-(butyl)-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)butanoate | 2.5 g | C(CCC)C1=C(C(=NC=2N1N=C(C2C2=C(C=C(C=C2C)C)C)C)C)CCCC(=O)OCC | C27H37N3O2
